US04725599
In a flame dried flask under a nitrogen atmosphere, and with mechanical stirring, a solution of about 1.2 g (0.05 mole) of sodium metal dissolved in 30 ml of dry methanol was treated dropwise with 2.35 g (1.98 ml, 0.022 mole) of methyl thioglycolate while maintaining the temperature below 25° C. A solution of 2.70 g (0.022 mole) of 3,3-dichloroacrylonitrile [R. L. Soulen, D. B. Clifford, F. F. Crim and J. A. Johnston, J. Org. Chem. 36 (22), 3386-3391 (1971)] and 10 ml of methanol was then added dropwise at a rate such as to keep the reaction temperature <28° C. The reaction mixture became cloudy and orange. Stirring was continued for an hour. The mixture was concentrated under reduced pressure, was diluted with water, and was extracted five times with 60 ml portions of chloroform. The combined extracts were dried over anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure to furnish an oil which was chromatographed under moderate pressure ("flash" chromatography) on a column of silica gel (Woelm 32-63 micrometers, i.d. 5 cm×height 18 cm); the eluant was isopropyl ether; 15 ml fractions were taken. Fractions 15-20 were combined and evaporated to give methyl 3-amino-5-chloro-2-thiophenecarboxylate as a colorless solid: m.p. 99°-101° C.; yield 0.60 g (14%); ir (KBr) 3448 cm-1, 3343, 1674, 1615, 1546, 1455, 1425 along others; 1H-nmr (CDCl3) delta 3.8 ppm (s, 3H), 5.3 (broad s, 2H), 6.4 (s, 1H); mass spectrum 191 (molecular ion), 159 (-32, CH3OH, parent peak) and others.

reactant | sodium | 0.05 mole, about 1.2 g | [Na] | Na
reactant | methyl thioglycolate | 0.022 mole, 1.98 ml, 2.35 g | C(CS)(=O)OC | C3H6O2S
reactant | 3,3-dichloroacrylonitrile | 0.022 mole, 2.70 g | ClC(=CC#N)Cl | C3HCl2N
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | methyl 3-amino-5-chloro-2-thiophenecarboxylate | NC1=C(SC(=C1)Cl)C(=O)OC | C6H6ClNO2S
